US07592477B2
Step b) Preparation of 1-(4-dibenzo[b,d]furan-4-ylphenyl)methanamine
To a solution of 4-(4-cyanophenyl) dibenzofuran (20 g, 0.074 mol) in isopropylalcohol (1.5 L) was added Raney-Nickel (10 g) with stirring. The reaction mixture was heated to reflux, treated with hydrazine hydrate (100 mL) and refluxed for 6 h. The reaction mixture was cooled, filtered through celite and washed with isopropylalcohol. The filtrate was concentrated and crude purified by column chromatography over silica gel (CHCl3/MeOH; 9:1) to give the title compound as a solid (6.5 g, 32%). 1H NMR (THF-d8, 300 MHz) δ 7.30-8.30 (m, 13H), 3.98 (s, 2H)

reactant | 4-(4-cyanophenyl) dibenzofuran | 0.074 mol, 20 g | C(#N)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C19H11NO
reactant | hydrazine hydrate | 100 mL | O.NN
solvent | isopropylalcohol | 1.5 L | C(C)(C)O | C3H8O
catalyst | Raney-Nickel | 10 g | [Ni] | Ni
product | 1-(4-dibenzo[b,d]furan-4-ylphenyl)methanamine | 6.5 g, 32% | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=C(C=C3)CN | C19H15NO
